US06472391B2
4-(6,7-Dimethoxy-4-quinazolinyl)-N-[4-(piperidinomethyl)phenyl]-1-piperazinecarboxamide (Compound 100)
In 10 ml of toluene was suspended 593.5 mg (2.16 mmol) of 6,7-dimethoxy-4-piperazinylquinazoline obtained by the method described in South African Patent No. 67 06512 (1968), and 362.6 ml (2.16 mmol) of 4-(chloromethyl)phenyl isocyanate was added thereto, followed by stirring at room temperature for 3 hours. After the reaction mixture was filtered, the obtained crystals were washed with diisopropyl ether and dried under reduced pressure to give 916.8 mg (2.08 mmol, 96%) of N-[4-(chloromethyl)phenyl]-4-(6,7-dimethoxy-4-quinazolinyl)-1-piperazinecarboxamide. In 10 ml of dimethylformamide was dissolved 422.9 mg (0.96 mmol) of the obtained N-[4-(chloromethyl)phenyl]-4-(6,7-dimethoxy-4-quinazolinyl)-1-piperazinecarboxamide, and 0.28 ml (2.83 mmol) of piperidine was added thereto, followed by stirring at room temperature for 7 hours. Then, the reaction mixture was poured into water and the precipitated crystals were collected by filtration, followed by purification by silica gel column chromatography to give 430.9 mg (0.88 mmol) of the desired compound as colorless crystals.

reactant | N-[4-(chloromethyl)phenyl]-4-(6,7-dimethoxy-4-quinazolinyl)-1-piperazinecarboxamide | 0.96 mmol, 422.9 mg | ClCC1=CC=C(C=C1)NC(=O)N1CCN(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C22H24ClN5O3
reactant | piperidine | 2.83 mmol, 0.28 ml | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(6,7-Dimethoxy-4-quinazolinyl)-N-[4-(piperidinomethyl)phenyl]-1-piperazinecarboxamide | 0.88 mmol, 430.9 mg, Yield: 92% | COC=1C=C2C(=NC=NC2=CC1OC)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)CN1CCCCC1 | C27H34N6O3
